Data/regression/wb97xd3/fold_0/aam_pretrain_train.csv
AAM,ea
[O:1]=[C:2]([C@@:3]1([H:7])[C:4]([H:8])([H:9])[N:5]1[H:10])[H:6]>>[O:1]=[C:2](/[C:3](=[N:5]/[C:4]([H:8])([H:9])[H:10])[H:7])[H:6],66.4656336101689
[C:1]([n:2]1[n:3][c:4]([H:10])[n:5][n:6]1)([H:7])([H:8])[H:9]>>[C:1]([N:2]=[N:6])([H:7])([H:8])[H:9].[N:3]=[C:4]=[N:5][H:10],91.98543544332529
[N:1](=[C:2]1\[O:3][C:4]([H:9])([H:10])[C@@:5]12[C:6]([H:11])([H:12])[N:7]2[H:13])\[H:8]>>[H:8][H:13].[N:1]#[C:2][O:3][C:4]([C:5]1=[N:7][C:6]1([H:11])[H:12])([H:9])[H:10],74.2747553556211
[O:1]([C:2]([C:3]([O:4][H:10])([H:8])[H:9])([H:6])[H:7])[H:5]>>[O:1]([C:2]([C:3]([H:6])([H:8])[H:9])([O:4][H:10])[H:7])[H:5],85.54781456775851
[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])=[C:4]([H:14])[H:15])([H:8])([H:9])[H:10].[O:5]=[C:6]=[N:7][H:16]>>[C:1]([C:2]1([C:3]([H:11])([H:12])[H:13])[C:4]([H:14])([H:15])[O:5]/[C:6]1=[N:7]\[H:16])([H:8])([H:9])[H:10],56.4392112183672
[C:1]1([H:7])([H:8])[C@@:2]2([H:9])[O:3][C@:4]1([H:10])[C:5]([H:11])=[C:6]2[H:12]>>[C:1]([C@@:2]1([H:9])[O+:3]=[C-:4][C:5]([H:11])=[C:6]1[H:12])([H:7])([H:8])[H:10],61.209495346923504
[O:1]=[C:2]1[C:3]([H:8])([H:9])[O:4][C@@:5]2([H:10])[C:6]([H:11])([H:12])[C@@:7]12[H:13]>>[O:1]=[C:2]([C:3]([O:4][C:5]1([H:10])[C:6]([H:12])=[C:7]1[H:13])([H:8])[H:9])[H:11],81.0401191486609
[C:1]([O:2][C:3](=[O:4])[C:5]#[C:6][H:10])([H:7])([H:8])[H:9]>>[C:1](=[O:2])([H:7])[H:9].[C:3](=[O:4])=[C:5]=[C:6]([H:8])[H:10],39.028860522266505
[C:1]1([H:9])([H:10])[C:2]([H:11])([H:12])[C:3]1([O:4][H:8])[C:5]#[C:6][C:7]([H:13])([H:14])[H:15]>>[C:1]([C:2]([C:3](=[O:4])[C:5]#[C:6][C:7]([H:13])([H:14])[H:15])([H:11])[H:12])([H:8])([H:9])[H:10],43.360235279323696
[C:1]([O:2][C:3]([C@@:4]([C:5]([H:14])([H:15])[H:16])([C:6]#[N:7])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([O+:2]=[C-:3][H:11])([H:8])([H:9])[H:10].[C:4]([C:5]([H:14])([H:15])[H:16])([C:6]#[N:7])([H:12])[H:13],65.7882727832275
[C:1]([O:2][C@@:3]([C:4]([H:11])([H:12])[H:13])([C:5]#[C:6][H:14])[H:10])([H:7])([H:8])[H:9]>>[C:1]([O:2][C@@:3]([C:4]([H:11])([H:12])[H:13])([C:6](=[C:5])[H:14])[H:10])([H:7])([H:8])[H:9],56.64729882713839
[C:1]([C:2](=[C+:4][H:12])[O-:5])([H:6])([H:7])[H:8].[C:3]([H:9])([H:10])([H:11])[H:13]>>[C:1]([C:2]1([C:3]([H:9])([H:10])[H:11])[C:4]([H:12])([H:13])[O:5]1)([H:6])([H:7])[H:8],53.636740800801405
[N:1]1([H:8])[C:2]([H:9])=[O+:3][C:4]([H:10])([H:11])[C:6](=[C:5]([H:12])[H:13])[N-:7]1>>[N:1](=[C:2](/[O:3][C:4]([C:5]([C:6]#[N:7])([H:12])[H:13])([H:10])[H:11])[H:9])\[H:8],66.0369508299069
[O:1]([C:2]([C:3]([C:4]([C:5]#[N:6])([H:12])[H:13])([H:10])[H:11])([H:8])[H:9])[H:7]>>[C:3](=[C:4]([H:12])[H:13])([H:10])[H:11].[C:5](#[N:6])[H:7].[O:1]=[C:2]([H:8])[H:9],64.62305357398989
[C:1]([C@@:7]([C:2]#[N:3])([C:5](=[O:4])[N:6]([H:11])[H:12])[H:13])([H:8])([H:9])[H:10]>>[C:1]([c:2]1[n:3][o:4][c:5]([N:6]([H:11])[H:12])[c:7]1[H:13])([H:8])([H:9])[H:10],84.7669385535901
[O:1]([C:2]([C:3](=[O:4])[H:9])([C:5](=[O:6])[H:10])[H:8])[H:7]>>[C:5](=[O:6])([H:9])[H:10].[O:1]([C:2](=[C:3]=[O:4])[H:8])[H:7],54.8029614461465
[O:1]([C:2](=[C:3]([H:8])[H:9])[C:4]([C:5]#[N:6])([H:10])[H:11])[H:7]>>[O:1]([C:2]1([C:5]#[N:6])[C:3]([H:8])([H:9])[C:4]1([H:10])[H:11])[H:7],96.5330431792414
[C:1]1([H:7])=[N:2][C@:3]1([C@@:4]1([H:11])[C:5]([H:9])([H:13])[N:6]1[H:14])[H:10].[H:8][H:12]>>[C:1]1([H:7])([H:8])[N:2]([H:9])[C@:3]1([C@@:4]1([H:11])[C:5]([H:12])([H:13])[N:6]1[H:14])[H:10],68.517370247482
[O:1]([C:2]([C:3]([C:4]([C:5]([O:6][H:16])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:8])[H:9])[H:7]>>[C:3]([C:4]([C:5]([O:6][H:16])[H:15])([H:12])[H:13])([H:10])([H:11])[H:14].[O:1]([C:2]([H:8])[H:9])[H:7],111.706839015799
[C:1]1([H:6])([H:7])[C:2]([C:3]([H:10])([H:11])[H:12])([H:9])[C:4]1([H:13])[H:14].[O:5]([H:8])[H:15]>>[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([C:4]([O:5][H:15])([H:13])[H:14])[H:9])([H:6])([H:7])[H:8],66.87610327907412
[C:1](/[N:2]=[C:3](/[O:4][H:16])[H:11])([H:8])([H:9])[H:10].[C:5]([C:6](=[O:7])[H:14])([H:12])([H:13])[H:15]>>[C:1](/[N:2]=[C:3](/[O:4][C:5]([C:6]([O:7][H:16])([H:14])[H:15])([H:12])[H:13])[H:11])([H:8])([H:9])[H:10],69.8144405228708
[C:1]([C:2]#[C:3][C:4]([C:5](=[O:6])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1](=[C:2]=[C:3]=[C:4]([H:10])[H:11])([H:7])[H:8].[C:5](=[O:6])([H:9])[H:12],69.5382922816808
[O:1]=[C:2]([C:3]([C:4]([C:5](=[O:6])[H:12])([H:10])[H:11])([H:8])[H:9])[H:7]>>[O-:1][C:2]([C:3]([C:4]([C:5]#[O+:6])([H:10])[H:11])([H:8])[H:9])([H:7])[H:12],74.3302440171019
[C:1]([O:2][C:3](=[O:4])[C@@:5]([C:6]([H:12])([H:13])[H:14])([O:7][H:15])[H:11])([H:8])([H:9])[H:10]>>[C:1]([O:2][C:3]([O-:4])=[C+:5][O:7][H:15])([H:8])([H:9])[H:10].[C:6]([H:11])([H:12])([H:13])[H:14],67.9406685394155
[C:1]([O:2][C:3](=[C:4]([H:13])[H:14])[H:12])([H:8])([H:9])[H:10].[N:5](=[C:6](/[O:7][H:11])[H:16])\[H:15]>>[C:1]([O:2][C:3]([C:4]([N:5]([C:6](=[O:7])[H:16])[H:15])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10],28.944394711923103
[C:1]([N:2]([C:3](=[O:4])[C:5]([O:6][H:13])([H:11])[H:12])[H:10])([H:7])([H:8])[H:9]>>[C-:1]([N+:2]([C:3](=[O:4])[C:5]([O:6][H:13])([H:11])[H:12])([H:9])[H:10])([H:7])[H:8],92.4983418774836
